US06756378B2
To a stirred mixture of ethyl 5-[(2-pyrrolidinyl)methylamino]pyridine-2-carboxylate (230 mg, 0.923 mmol), 3-methoxy-4-[-N′-(2-methylphenyl)ureido]phenylacetic acid (290 mg, 0.923 mmol), 4-DMAP (145 mg, 1.15 mmol) in DMF (7 ml) was added EDC.HCl (225 mg, 1.15 mmol) at room temperature. The resulting mixture was stirred at room temperature for 20 hr. The mixture was pored into ice-water. The solid was collected, washed with water and air dried. The crude solid was purified by silica gel (30 ml) column chromatography with CHCl3—EtOH (98:2, v/v) as eluent to give ethyl 5-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methylamino]pyridine-2-carboxylate (400 mg, 80%) as fine needles. IR (KBr) n 3325, 1709, 1618, 1585, 1531 cm−1; 1H-NMR (CDCl3) δ1.39 (t, J=7, 3 H), 1.73-2.07 (series of m, 4 H), 2.28 (s, 3 H), 3.12 and 3.49 (each m, each 1 H), 3.60 (s, 2 H), 4.39 (br q, J=7 Hz, 2 H), 4.53 (m, 1 H), 6.07 (br s, 1 H), 6.23 (br s, 1 H), 6.75-6.77 (series of s and m, 2 H), 6.82 (dd, J=3.0 and 8.5 Hz, 1 H), 7.09-7.22 (series of m, 3 H), 7.49 (d, J=8.0 Hz, 1 H), 7.90 (d, J=8.5 Hz, 1 H), 7.98 (d, J=2.6 Hz, 1 H), 8.06 (d, J=8.8 Hz, 1 H); MS (FAB) m/z 546 (M++1); Anal. Calcd. for C30H35N5O5.1.5×H2O: C, 52.92; H, 6.69; N, 12.23. Found: C, 63.11; H, 6.48; N, 11.96.

reactant | ethyl 5-[(2-pyrrolidinyl)methylamino]pyridine-2-carboxylate | 0.923 mmol, 230 mg | N1C(CCC1)CNC=1C=CC(=NC1)C(=O)OCC | C13H19N3O2
reactant | 3-methoxy-4-[-N′-(2-methylphenyl)ureido]phenylacetic acid | 0.923 mmol, 290 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | EDC.HCl | 1.15 mmol, 225 mg | CCN=C=NCCCN(C)C.Cl
catalyst | 4-DMAP | 1.15 mmol, 145 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | ethyl 5-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methylamino]pyridine-2-carboxylate | 400 mg, 80% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1C(CCC1)CNC=1C=CC(=NC1)C(=O)OCC | C30H35N5O5
